### ISSUE TITLE
Well-founded recursion simprocs panic with Expr.appArg!/appFn! on non-applications

### ISSUE THREAD

**Issue by kim-em** [leanprover/lean4#14919]
Three globally registered simprocs used by well-founded recursion call the
partial accessors `Expr.appArg!` and `Expr.appFn!` without first checking
`Expr.isApp`, so they panic rather than declining to rewrite:

- `Lean.Elab.WF.paramProj`
- `Lean.Elab.WF.paramMatcher`
- `Lean.Elab.WF.paramLet`

Because the panic is logged at `info` severity, the build still exits 0 and CI
stays green while emitting the panics. In the project where we found this, a
single theorem produced 972 of them without failing the build.

### Reproducer

```lean
import Mathlib.Data.Fin.VecNotation

def n : Fin 1 → Fin 1 → ℕ := ![![1]]
def mk0 : Fin 1 := @Fin.mk 1 0 (by decide)

example : n mk0 mk0 = 1 := by
  simp only [n, mk0]
  push_cast
```

Output:

```
PANIC at Lean.Expr.appArg! Lean.Expr:937:15: application expected
PANIC at Lean.Expr.appFn! Lean.Expr:933:15: application expected
```

three of each, with the command still exiting 0.

The trigger is a `Fin.mk` literal meeting the matcher application generated by
`![...]` vector notation. The `Fin.mk` form is required: replacing `mk0` with
`@OfNat.ofNat (Fin 1) 0 Fin.instOfNat` produces no panics. This matters in
practice because `fin_cases` emits exactly the `Fin.mk` form, so any
`fin_cases <;> push_cast` over vector-notation data hits it.

### Attribution

Each of the three simprocs contributes exactly one third. Disabling any one of
them on a single branch of our original proof took the counts from 18/18 to
12/12; disabling all three gave 0/0, and the proof still closed with no errors:

```lean
push_cast [-Lean.Elab.WF.paramProj, -Lean.Elab.WF.paramMatcher, -Lean.Elab.WF.paramLet]
```

### Versions

Identical panic counts on `v4.32.2`, `v4.33.1` and `v4.34.0-rc2`, each with
the matching Mathlib tag.

### Suggested fix

Guard the accessors with `Expr.isApp` and return `.continue` when the shape is
not what the simproc expects. A simproc encountering an expression it does not
recognise should decline, not panic.

**Comment by kim-em** [comment]
Correction to the attribution above: the three well-founded simprocs are not at
fault. They guard themselves correctly. In `v4.32.2`, `paramProj` for instance
opens with

```lean
builtin_dsimproc paramProj (_) := fun e => do
  if h : e.isApp then
    ...
  else
    return .continue
```

and `isWfParam?` checks `isAppOfArity ``wfParam 2` before its `appArg!`.

The panic is in the shared driver, `Lean.Meta.Simp.SimprocEntry.try` in
`src/Lean/Meta/Tactic/Simp/Simproc.lean:189`:

```lean
def SimprocEntry.try (s : SimprocEntry) (numExtraArgs : Nat) (e : Expr) : SimpM Step := do
  let mut extraArgs := #[]
  let mut e := e
  for _ in *...numExtraArgs do
    extraArgs := extraArgs.push e.appArg!
    e := e.appFn!
  ...
```

and identically in `SimprocEntry.tryD` just below it. `numExtraArgs` arrives
from `s.getMatchWithExtra e` in `simprocCore` and is trusted: the loop strips
that many arguments with the partial accessors, without checking `e.isApp` at
each step. When the discrimination tree reports extra arguments for an
expression that is not an application, both accessors panic.

The evidence that this is the site:

- `SimprocEntry.try` is the frame directly beneath the panic in the backtrace;
- the loop calls `appArg!` and `appFn!` exactly once per iteration, which
  matches the exactly equal counts observed, 486 and 486 in the original file
  and 3 and 3 in the reproducer;
- the three simprocs contribute one third each because all three are registered
  with the wildcard pattern `(_)`, so they are simply the ones that get this
  far. Any simproc reaching `try` with a bad `numExtraArgs` would panic
  identically; the fault is not specific to well-founded recursion.

So the fix belongs in `SimprocEntry.try` and `SimprocEntry.tryD`, guarding the
loop rather than making individual simprocs defensive:

```lean
  for _ in *...numExtraArgs do
    unless e.isApp do return .continue
    extraArgs := extraArgs.push e.appArg!
    e := e.appFn!
```

I am preparing a PR. Apologies for the misleading first diagnosis.

**Comment by nomeata** [comment]
I'm also on it. The problem is actually deeper, the whole candidate list is stale after the first rewrite

**Comment by nomeata** [comment]
https://github.com/leanprover/lean4/pull/14921 may be more proper

**Comment by kim-em** [comment]
Second correction, and this one identifies the actual cause. Sorry for the
churn; the earlier comments named the crash site but not the mechanism.

There are **two independent** ways `numExtraArgs` comes to exceed the current
application spine. `getMatchWithExtra` is not at fault in either: its recursion
in `DiscrTree.getMatchWithExtra` only increments after checking the raw
expression is an application, so for the expression it is given,
`numExtraArgs ≤ e.getAppNumArgs` holds.

**1. Stale candidates in `simprocCore`.** The candidate list and its counts are
computed once, but the loop rewrites the expression as it goes:

```lean
let candidates ← withSimpIndexConfig <| s.getMatchWithExtra e
let mut e := e
for (simprocEntry, numExtraArgs) in candidates do
    let s ← simprocEntry.try numExtraArgs e
    ...
    | .continue (some r) =>
      e := r.expr          -- later candidates now hold counts for the old spine
```

Concretely, in the Mathlib reproducer the expression is `![![1]] 0 0`, a spine
of six applications, and wildcard candidates are produced at every prefix,
including three at `extra=6`, one for each of `paramProj`, `paramMatcher` and
`paramLet`. `Matrix.cons_val` then fires, returns `.continue`, and rewrites it
to `![1] 0`, a spine of five. The three stale `extra=6` candidates each strip
six arguments from five, reach `Expr.const ``Matrix.vecCons`, and call the
partial accessors on a constant. Three candidates, three panic pairs, exactly as
observed. `dsimprocCore` has the same structure.

**2. Reduced versus raw arity in the non-indexed rewriting path.** This one is
independent of simprocs entirely and has a Mathlib-free reproducer:

```lean
import Lean

opaque g : Nat → Nat → Unit
@[reducible] def foo : Nat → Unit := g 0

theorem all_unit (x : Unit) : x = () := Subsingleton.elim _ _

example : foo 1 = () := by
  simp (config := { index := false }) only [all_unit]
```

`getMatchLiberal` sees the reduced `g 0 1`, two arguments, while
`Simp.tryTheoremCore` (`src/Lean/Meta/Tactic/Simp/Rewrite.lean`) strips from the
raw `foo 1`, one argument.

**The damage is not only log noise.** `panic!` returns its `Inhabited` fallback,
so a dummy `Expr` leaks into elaboration and produces a spurious error. On
`v4.32.2` the reproducer above emits

```
error: Unknown constant `_inhabitedExprDummy`
```

alongside the panics, and because panics are logged at `info` severity the build
still exits 0.

I have a fix and will open a PR shortly: guard the stripping loops in
`SimprocEntry.try`, `SimprocEntry.tryD` and `Simp.tryTheoremCore`, declining
(`.continue` / `none`) rather than panicking. Verified on a build of master: the
reproducer above goes from an error plus two panics to clean, and 622
simp-related tests in `tests/elab` pass with seven pre-existing failures that
are identical on an unpatched build of the same commit.

**Comment by nomeata** [comment]
Am I talking to a bot or a human here right now?

Anyways, I propose https://github.com/leanprover/lean4/pull/14921#issuecomment-5406349335 as the proper fix
